US06800651B2
Using the method of Example 343 using 4-phenoxyaniline (Aldrich) and 3-pyridinecarboxaldehyde (Aldrich) and purifying via preparative HPLC eluting with 95:5 to 60:40 DCM/ethyl acetate gave N-(4-phenoxypheny)pyridin-3-ylmethylamine. Anal Calcd for C18H16N2O: C, 78.24; H, 5.84; N, 10.14. Found: C, 78.19; H, 5.67; N, 10.03. 1H NMR (400 MHz, DMSO) 4.00 (1H, bt), 4.35 (2H, d, J=5.1 Hz), 6.62 (2H, m), 6.89-6.93 (4H, m), 6.99-7.03 (1H, m), 7.25-7.30 (3H, m), 7.71 (1H, m), 8.54 (1H, dd, J=1.8, 4.8 Hz), 8.64 (1H, d, J=1.8 Hz) MS found 277.0 [M+H]+

reactant | 4-phenoxyaniline | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | 3-pyridinecarboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | N-(4-phenoxypheny)pyridin-3-ylmethylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C18H16N2O
